* Z:\home\mikkel\repoes\ESD4\project\heterodyneMixing\sysMixer.asc
XU1 N010 N007 VA LO BF992
R1 0 N007 110K
R2 N010 VCC 4.7K
C1 MixOut N010 1µ
R3 N004 0 1k
R9 0 N002 10.9K
R5 N002 0 607
V1 VA 0 SINE(0 3 250K)
V2 LO 0 SINE(0 3 251K)
V3 VCC 0 6
V4 POS 0 12
V5 0 NEG 12
R4 LO 0 50
R6 VA 0 50
XU3 N004 N002 POS NEG 0 OP27
D1 Amp1-Out 0 D
R7 N011 Amp1-Out 1000k
C3 N011 0 220p
C2 Amp1-Out 0 30p
R8 N003 0 1k
R10 0 N001 10.9K
R11 N001 0 607
XU2 N003 N001 POS NEG 0 OP27
XU4 0 N008 POS NEG N009 OP27
R12 N008 0 1k
R13 N009 N008 1k
C4 final N009 1µ
Q1 N005 MixOut P001 0 BC337-25
R14 VCC N005 22k
R15 P001 0 1k
R16 VCC MixOut 33000k
R17 MixOut 0 10000k
C6 Amp1-Out N005 1µF
Q2 N006 FilterOut P002 0 BC337-25
R18 VCC N006 300k
R19 P002 0 20k
R20 VCC FilterOut 33000k
R21 FilterOut 0 80000k
C5 Amp2-Out N006 1µF
C7 FilterOut N011 1µF
.model D D
.lib C:\users\mikkel\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\mikkel\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 0.005 0 0.000001
* A=19
* A=19
.lib ADI.lib
.lib Dg_nmos.lib
.backanno
.end
